US06316482B1
A mixture of 4-(2-amino-3-nitrophenyl)carbonylamino-N-(2-hydroxy-4-methylphenyl)-3-methoxy-N-methylbenzamide (520 mg), N-(4-bromobutyl)phthalimide (326 mg) and potassium carbonate (160 mg) in N,N-dimethylformamide (10 ml) was heated at 60° C. for 8 hours. The mixture was diluted with ethyl acetate and the solution was washed with water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo. The crude oil was purified by silica gel column (1% methanol in chloroform) to give 4-(2-amino-3-nitrophenyl)carbonylamino-3-methoxy-N-methyl-N-[2-(4-phthalimidobut-1-yloxy)-4-methylphenyl]-benzamide (670 mg).

reactant | 4-(2-amino-3-nitrophenyl)carbonylamino-N-(2-hydroxy-4-methylphenyl)-3-methoxy-N-methylbenzamide | 520 mg | NC1=C(C=CC=C1[N+](=O)[O-])C(=O)NC1=C(C=C(C(=O)N(C)C2=C(C=C(C=C2)C)O)C=C1)OC | C23H22N4O6
reactant | N-(4-bromobutyl)phthalimide | 326 mg | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | potassium carbonate | 160 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-amino-3-nitrophenyl)carbonylamino-3-methoxy-N-methyl-N-[2-(4-phthalimidobut-1-yloxy)-4-methylphenyl]-benzamide | 670 mg | NC1=C(C=CC=C1[N+](=O)[O-])C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1)OC | C35H33N5O8
